US06048885
N,N-Dimethylformamide (1 ml), potassium carbonate (0.10 g, 0.74 mmol) and 5-trifluoromethyl-2-chloropyridine (0.10 g, 0.56 mmol) were added to 5-chloro-2-hydroxyphenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime (0.10 g, 0.37 mmol), and the mixture was stirred at 110° C. for 2 hours. After completion of the reaction, ether (100 ml) was added, and the mixture was washed with saturated brine (80 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 5-chloro-2-(5-trifluoromethyl-2-pyridyloxy)phenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime (0.14 g, 91.7%) as a colorless oil.

reactant | N,N-Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.74 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-trifluoromethyl-2-chloropyridine | 0.56 mmol, 0.10 g | FC(C=1C=CC(=NC1)Cl)(F)F | C6H3ClF3N
reactant | 5-chloro-2-hydroxyphenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime | 0.37 mmol, 0.10 g | CON=C(C1=C(C=CC(=C1)Cl)O)C1=NOC(=N1)C | C11H10ClN3O3
solvent | ether | 100 ml | CCOCC | C4H10O
product | 5-chloro-2-(5-trifluoromethyl-2-pyridyloxy)phenyl 5-methyl-1,2,4-oxadiazol-3-yl ketone O-methyloxime | 0.14 g, 91.7% | CON=C(C1=C(C=CC(=C1)Cl)OC1=NC=C(C=C1)C(F)(F)F)C1=NOC(=N1)C | C17H12ClF3N4O3
